US07342131B2
Benzoyl chloride (10.98 mL, 94.62 mmol) was added dropwise to a solution of (R)-(−)-1,2-propanediol (6.00 g, 78.85 mmol) and 2,4,6-collidine (7.22 mL, 54.67 mmol) in 100 mL of anhydrous dichloromethane at −78° C. The reaction was stirred at −78° C. for three hours and at room temperature for 1 hr, before quenching with water (10 mL) for 15 minutes. The quenched mixture was washed with 0.5N HCl (4×50 mL) until the dark color diminished, and then with saturated NaHCO3 solution (4×50 mL) and brine. The organic layer was separated, dried over Na2SO4 and concentrated. Chromatography (silica gel 230-400 Mesh, 1:9 ethyl acetate/Hexane) of the residue afforded 8.9 g (63%) of (2R)-2-Hydroxypropyl benzoate as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 1.13 (d, J=6.4 Hz, 3H), 3.93 (m, 1H), 4.10 (m, 2H), 4.95 (d, J=4.8 Hz, 1H), 7.51 (t, J=7.2 Hz, 2H), 7.64 (t, J=7.6 Hz, 1H), 7.99 (d, J=6.8 Hz, 2H); MS (ESI) m/z 181 (M+H)+.

reactant | Benzoyl chloride | 94.62 mmol, 10.98 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | (R)-(−)-1,2-propanediol | 78.85 mmol, 6.00 g | C([C@@H](C)O)O | C3H8O2
reactant | 2,4,6-collidine | 54.67 mmol, 7.22 mL | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (2R)-2-Hydroxypropyl benzoate | 8.9 g, 63% | C(C1=CC=CC=C1)(=O)OC[C@@H](C)O | C10H12O3
